US07534797B2
(3-chloropyrazin-2-yl)-quinolin-7-ylmethanol
To a solution of 2,2,6,6-tetramethylpiperidine (0.64 mL, 0.54 g, 3.8 mmol) in dry THF (10 mL), cooled by CO2(s)/acetone, was added nBuLi (2.5 M in hexanes; 1.6 mL, 4.0 mmol). The cooling bath was replaced with an ice/water bath for 15 min, and then the solution was re-cooled to −78° C. After 10 min, 2-chloropyrazine (0.29 mL, 0.37 g, 3.2 mmol) was added. A solution of quinoline-7-carbaldehyde (500 mg, 3.18 mmol) in dry THF (5 mL), cooled by CO2(s)/acetone, was transferred into the lithiochloropyrazine solution by cannula 30 min later, and the mixture was stirred at −78° C. for 2.5 h and at 0° C. for 0.5 h. The reaction was quenched by adding aq. HCl (2 mL of a 2 M solution) followed by aq. NH4Cl solution. The mixture was extracted with EtOAc (4×30 mL), combined EtOAc extracts were washed with water and brine and dried over MgSO4. The crude material was chromatographed on silica gel [Jones Flashmaster, 20 g/70 mL cartridge, eluting with hexanes:EtOAc 2:1 (1-21)→1:1 (22-32)→1:4 (33-62)→EtOAc (63-66)], yielding the title compound as an orange foam; 1H NMR (CDCl3, 400 MHz) δ 4.87 (d, J=7.6 Hz, 1H), 6.26 (d, J=7.6 Hz, 1H), 7.41 (dd, J=4.4, 8.4 Hz, 1H), 7.60 (dd, J=1.6, 8.4 Hz, 1H), 7.82 (d, J=8.4 Hz, 1H), 8.02 (d, J=0.8 Hz, 1H), 8.14 (dd, J=0.8, 8.4 Hz, 1H), 8.41 (d, J=2.4 Hz, 1H), 8.60 (d, J=2.4 Hz, 1H), 8.91 (dd, J=1.6, 4.4 Hz, 1H). MS (ES+): m/z 272.1/274.1 (100/38) [MH+].

reactant | 2,2,6,6-tetramethylpiperidine | 3.8 mmol, 0.64 mL, 0.54 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | CO2 | C(=O)=O | CO2
reactant | nBuLi | 4.0 mmol, 2.5 M, 1.6 mL | [Li]CCCC
reactant | 2-chloropyrazine | 3.2 mmol, 0.29 mL, 0.37 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | quinoline-7-carbaldehyde | 3.18 mmol, 500 mg | N1=CC=CC2=CC=C(C=C12)C=O | C10H7NO
reactant | lithiochloropyrazine | [Li]C=1C(=NC=CN1)Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | (3-chloropyrazin-2-yl)-quinolin-7-ylmethanol | ClC=1C(=NC=CN1)C(O)C1=CC=C2C=CC=NC2=C1 | C14H10ClN3O
